US07138425B2
c) 2-[5-(5-Phenylbenzoxazol-2-yl)-2-(3-thienyl)phenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid
Prepared by the method of Example 15f), from 2-(3-amino-4-(3-thienyl)phenyl)-5-phenylbenzoxazole (61 mg, 0.16 mmol) and 1,2,4-benzenetricarboxylic anhydride (32 mg, 0.16 mmol) the title compound was obtained (66 mg, 75%). 1H NMR (DMSO) δ 8.50(d, 1H), 8.41(m, 2H), 8.30(s, 1H), 8.07(m, 2H), 7.90(m, 2H), 7.75(m, 3H), 7.62(m, 1H), 7.55(m, 1H), 7.50(m, 2H), 7.40(t, 1H), 7.11(dd, 1H). MS 540.7 m/z (M−H)−.

reactant | 2-(3-amino-4-(3-thienyl)phenyl)-5-phenylbenzoxazole | 0.16 mmol, 61 mg | NC=1C=C(C=CC1C1=CSC=C1)C=1OC2=C(N1)C=C(C=C2)C2=CC=CC=C2 | C23H16N2OS
reactant | 1,2,4-benzenetricarboxylic anhydride | 0.16 mmol, 32 mg | C1=CC2=C(C=C1C(=O)O)C(=O)OC2=O | C9H4O5
product | 2-[5-(5-Phenylbenzoxazol-2-yl)-2-(3-thienyl)phenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid | C1(=CC=CC=C1)C=1C=CC2=C(N=C(O2)C=2C=CC(=C(C2)N2C(C3=CC=C(C=C3C2=O)C(=O)O)=O)C2=CSC=C2)C1 | C32H18N2O5S
